Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Coffee ground emesis, melena, lightheadedness  
 
Major Surgical or Invasive Procedure:
Upper endoscopy ___

 
History of Present Illness:
Mr. ___ is a ___ M presenting from his PCP's office with 
melena, coffee ground emesis, and light headedness.  
 Per the patient he has felt weak and fatigued the past few 
weeks. He had noticed that his stool looked darker when he 
whipped. He has additionally been experiencing diffuse, crampy, 
abdominal pain. He said that the pain is worse at night, but has 
noticed if it's worse when he eats or when lying flat. He had 
been taking 4 pills of ibuprofen for his abdominal pain, and 
estimates that he probably took this dose 1x/day a few times a 
week.  
 This was stable until ___ morning, 2 days ago, when he 
experienced multiple episodes of dark emesis (he estimates 5x) 
and multiple dark stools. He said that he felt dizzy when he 
stood up and began experiencing dyspnea on exertion. He had no 
further episodes of emesis, but continued to have dark stool 
over the past 2 days. He made an appointment with his PCP to 
look into these symptoms, who sent him to the ___ ED.  
 He has been taking 600-800mg of Ibuprofen for back pain ___ 
times a week for the last few weeks. Per outpatient PCP notes he 
does not drink frequently, but binge drinks when he does (about 
1 bottle of vodka in a night). He reports that he last drunk on 
___, when he had 3 beers. Prior to that he last binge drank on 
___ when he had 2 beers and some vodka. He denies any prior 
history of peptic ulcer disease or GIB. Last colonoscopy in ___ 
was normal.  
 Upon presentation to the ED he was afebrile, and mildly 
tachycardic at 106. He was hemodynamically stable with a bp of 
124/81 and O2sat of 100% on room air. His labs were notable for 
Hbg of 8.8 and a BUN of 31. GI was consulted and performed an 
EGD which showed an ulcer in the antrum, erythema in the antrum 
compatible with gastritis (biopsy), erythema in the bulb 
compatible with duodenitis, and erosion in the bulb. He received 
40 mg of pantoprazole and 1000 mL of normal saline. Upon 
transfer to medicine he was no-longer tachycardic (82) and his 
blood pressure had fallen slightly to 106/60.  
 REVIEW OF SYSTEMS:  
 (+) HPI  
 (-) Fever, chills, night sweats, headache, vision changes, 
cough, chest pain, palpitations, diarrhea, weight loss, 
constipation, dysuria, hematuria.  

 
Past Medical History:
Hypothyroidism  
 Hypertension  
 Aortic Insufficiency  
 Mitral Regurgitation 
 
Social History:
___
Family History:
No FH of GI malignancy  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VS: T: 98.6 BP: 132 / 82 HR: 78 RR: 18 O2sat: 98% Ra  
 GENERAL: NAD  
 HEENT: AT/NC, MMM, conjunctival pallor  
 NECK: nontender supple neck, no LAD  
 HEART: RRR, systolic murmur heard loudest at the RUSB  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN grossly II-XII intact  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:
VITALS - 98 PO 110 / 69 L Lying 87 18 98 RA 
GENERAL: NAD, pleasant
HEENT: MMM, conjunctival pallor  
NECK: Supple
HEART: RRR, S1, S2, no r/m/g
LUNGS: CTAB, no wheezes, rales, rhonchi. No difficulty 
breathing.
ABDOMEN: +BS, non-distended, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: WWP, no edema
NEURO: Grossly normal motor function and sensorium
 
Pertinent Results:
ADMISSION LABORATORY STUDIES
======================================
___ 01:30PM BLOOD WBC-9.1# RBC-2.82*# Hgb-8.8*# Hct-25.2*# 
MCV-89 MCH-31.2 MCHC-34.9 RDW-13.2 RDWSD-42.8 Plt ___
___ 01:30PM BLOOD Neuts-66.7 ___ Monos-7.3 Eos-1.7 
Baso-0.3 NRBC-0.2* Im ___ AbsNeut-6.04 AbsLymp-2.12 
AbsMono-0.66 AbsEos-0.15 AbsBaso-0.03
___ 01:30PM BLOOD ___ PTT-26.6 ___
___ 01:30PM BLOOD Glucose-133* UreaN-31* Creat-1.1 Na-136 
K-4.0 Cl-104 HCO3-20* AnGap-16
___ 07:30AM BLOOD ALT-44* AST-37 AlkPhos-43 TotBili-0.4
___ 07:30AM BLOOD Calcium-8.3* Phos-3.0 Mg-1.7 Iron-90
___ 07:30AM BLOOD calTIBC-321 Ferritn-65 TRF-247
___ 02:50PM URINE Color-Straw Appear-Clear Sp ___
___ 02:50PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 02:50PM URINE RBC-0 WBC-0 Bacteri-NONE Yeast-NONE Epi-0

DISCHARGE LABORATORY STUDIES
======================================
___ 07:30AM BLOOD WBC-7.1 RBC-2.61* Hgb-8.3* Hct-23.7* 
MCV-91 MCH-31.8 MCHC-35.0 RDW-13.7 RDWSD-44.5 Plt ___
___ 07:30AM BLOOD Glucose-123* UreaN-17 Creat-1.1 Na-136 
K-3.9 Cl-104 HCO3-22 AnGap-14

IMAGING/REPORTS
======================================
EGD ___
Findings: 
Esophagus: Normal esophagus. 
Stomach:  
 Mucosa: Localized discontinuous erythema of the mucosa with no 
bleeding was noted in the antrum. These findings are compatible 
with gastritis . Cold forceps biopsies were performed for 
histology at the stomach .  
 Excavated Lesions A single cratered 10 mm ulcer was found in 
the antrum. A pigmented material suggested recent bleeding.  
Duodenum:  
 Mucosa: Localized discontinuous erythema of the mucosa with no 
bleeding was noted in the bulb compatible with duodenitis .  
 Excavated Lesions A single non-bleeding localized erosion was 
seen in the bulb.  
Impression: Ulcer in the antrum
Erythema in the antrum compatible with gastritis (biopsy)
Erythema in the bulb compatible with duodenitis
Erosion in the bulb
Otherwise normal EGD to third part of the duodenum 

 
Brief Hospital Course:
___ w/ HTN and hypothyroidism who was admitted with melena and 
coffee ground emesis and found to have an ulcer in the antrum 
for which no intervention was performed and remained stable.

#) Upper GI bleed secondary to antral ulcer
Pt presented with melena and coffee ground emesis in the setting 
of recent NSAID and occasional alcohol use. Found to be 
normotensive but tachycardic and hemoglobin was 8.8. Endoscopy 
showed a single cratered 10mm ulcer in the antrum with pigmented 
material suggestive of recent bleeding, as well as erythema in 
the antrum compatible with gastritis, erythema in the bulb 
compatible with duodenitis and erosion in the bulb. The gastric 
ulcer was felt to be the likely source of the GI bleed and felt 
to be a low risk ulcer (re-bleeding risk ~5-7%) so no 
intervention performed. Started on omeprazole 40mg BID, which 
will need to be continued for ___ weeks with plan for repeat 
endoscopy in ___ weeks to document healing of the gastric 
ulcer. Pt will need to avoid NSAIDs and alcohol. Remained 
hemodynamically stable with stable hemoglobin and without 
further episodes of bleeding and discharged the following 
morning.

CHRONIC/STABLE ISSUES:  
======================
#Hypothyroidism: Continued Levothyroxine
#Hypertension: Continued Losartan, Hydrochlorothiazide

TRANSITIONAL ISSUES
===============================
1. Need to continue omeprazole 40mg BID for ___ weeks
2. Needs to have repeat EGD in ___ weeks to document healing of 
the gastric ulcer
3. Needs to avoid alcohol and NSAIDs
4. Needs to have repeat LFTs as an outpatient and consideration 
of further workup for the elevated LFTs
5. Follow up H.pylori from biopsy and treat if positive

 #CODE STATUS: full code (presumed) 
 #CONTACT: 
 Primary: ___ (Home) 
 Cell: ___ 
 ___: ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. losartan-hydrochlorothiazide 100-25 mg oral DAILY 
2. Vitamin D ___ UNIT PO EVERY 2 WEEKS (___) 
3. Levothyroxine Sodium 137 mcg PO DAILY 
4. Ibuprofen Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
2.  Levothyroxine Sodium 137 mcg PO DAILY  
3.  losartan-hydrochlorothiazide 100-25 mg oral DAILY  
4.  Vitamin D ___ UNIT PO EVERY 2 WEEKS (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- upper GI bleed secondary to an ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.  You were admitted 
because of bleeding from your GI tract, and you were found to 
have an ulcer in your stomach. You were started on Prilosec to 
reduce the acid in your stomach and help heal the ulcer.  It is 
very important for you to take Prilosec as prescribed, and 
follow up with your gastroenterologist in about 2 months for 
another endoscopy to ensure the ulcer has healed.  It is VERY 
important for you to avoid Ibuprofen and alcohol to allow 
healing of the ulcer.  It is important for you to have a soft 
diet today and advance to a regular diet tomorrow.  

Sincerely,
Your ___ team
 
Followup Instructions:
___